US05693809
Preparation of 17β-(benzylaminocarbonyloxy)-4-methyl-5α-4-azaandrostan-3-one
To a solution of 17β-hydroxy-4-methyl-5α-4-azaandrostan-3-one (61 mg) in pyridine (0.60 ml) was added benzyl isocyanate (54 mg, 0.40 mmol). The mixture was stirred at 60°-70° C. under N2 for 18 hr and pumped in vacuo to remove pyridine. The residue was purified using a silica gel plate (2000 m) developed with ethyl acetate (Rf=0.37, run in EtOAc) to give the title compound; m.p. is 216°-217° C.

reactant | 17β-hydroxy-4-methyl-5α-4-azaandrostan-3-one | 61 mg | O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CC[C@H]3N(C(CC[C@]3(C)[C@H]1CC2)=O)C | C19H31NO2
reactant | benzyl isocyanate | 0.40 mmol, 54 mg | C(C1=CC=CC=C1)N=C=O | C8H7NO
solvent | pyridine | 0.60 ml | N1=CC=CC=C1 | C5H5N
product | 17β-(benzylaminocarbonyloxy)-4-methyl-5α-4-azaandrostan-3-one | C(C1=CC=CC=C1)NC(=O)O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CC[C@H]3N(C(CC[C@]3(C)[C@H]1CC2)=O)C | C27H38N2O3
